US03997591
Preparation of 11-chloro-3,4,6,7,8,12b-hexahydro-8-methyl-12b-phenyl-2H-[1,3]oxazino[3,2-d][1,4]benzodiazepine
A solution of 5.0 g. (16 mmole) of 5-chloro-2-(2-chloroethylmethylamino)benzophenone, 3.75 g. (50 mmole) of 3-aminopropanol, 50 ml. of triethylamine and 250 ml. of ethanol was stirred at reflux for 48 hours. The reaction mixture was then evaporated to a residue which was washed with water, dissolved in methylene chloride and chromatographed over a column of Florisil. The first fraction yielded the recovery of 2.7 g. of starting material. Elution with acetone, ethanol, methanol and finally with ammonial methanol gave a compound of very low Rf on fluorescent silica eluted with ethanol. Crystallization from acetone and recrystallizations from ether-petroleum ether gave the above-titled product as colorless prisms. m.p. 142°-144°.

reactant | 5-chloro-2-(2-chloroethylmethylamino)benzophenone | 16 mmole | ClC=1C=CC(=C(C(=O)C2=CC=CC=C2)C1)N(C)CCCl | C16H15Cl2NO
reactant | 3-aminopropanol | 50 mmole | NCCCO | C3H9NO
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | ethanol | C(C)O | C2H6O
product | 11-chloro-3,4,6,7,8,12b-hexahydro-8-methyl-12b-phenyl-2H-[1,3]oxazino[3,2-d][1,4]benzodiazepine | ClC=1C=CC2=C(C3(N(CCN2C)CCCO3)C3=CC=CC=C3)C1 | C19H21ClN2O
